US04427677
Conc. hydrochloric acid (1.5 g) was added to the mixture of 7-[2-methylthiomethoxyimino-2-(2-formamido-5-chlorothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (2.8 g) and methanol (30 ml), and stirred at ambient temperature for 5 hours. After removal of solvent, and the residue was dissolved in water and the solution was adjusted to pH 4.0 with 10% aqueous sodium hydroxide under ice-cooling. The solution was subjected to column chromatography on macroporus non-ionic adsorption resin "Diaion HP-20" and eluted with 20% aqueous solution of isopropyl alcohol. The fractions containing the object compound were collected and concentrated and lyophilized to give 7-[2-methylthiomethoxyimino-2-(2-amino-5-chlorothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (1.7 g).

reactant | hydrochloric acid | 1.5 g | Cl | ClH
reactant | 7-[2-methylthiomethoxyimino-2-(2-formamido-5-chlorothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 2.8 g | CSCON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C=1N=C(SC1Cl)NC=O | C21H19ClN6O6S3
solvent | methanol | 30 ml | CO | CH4O
product | 7-[2-methylthiomethoxyimino-2-(2-amino-5-chlorothiazol-4-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 1.7 g | CSCON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C=1N=C(SC1Cl)N | C20H19ClN6O5S3
